US03957764
A. n-ethyl-N-β-phenoxyethylformamide
To a solution of formic acid (3.3 ml) and N-ethyl-N-β-phenoxyethylamine (14.5 g) in methylene chloride (100 ml) at 0°-5°C was added N,N'-dicyclohexylcarbodiimide (19.7 g) with stirring. The mixture was stirred for 18 hours at room temperature and filtered. The filtrate was evaporated in vacuo to leave an oil which was taken up in either (100 ml) and extracted with 0.4 N hydrochloric acid (2 × 25 ml) and water (2 × 25 ml). After drying, the ether was removed in vacuo to leave the above compound as an oil.

reactant | formic acid | 3.3 ml | C(=O)O | CH2O2
reactant | N-ethyl-N-β-phenoxyethylamine | 14.5 g | C(C)NCCOC1=CC=CC=C1 | C10H15NO
reactant | N,N'-dicyclohexylcarbodiimide | 19.7 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | n-ethyl-N-β-phenoxyethylformamide | C(C)N(C=O)CCOC1=CC=CC=C1 | C11H15NO2
